US08729078B2
To a 5 mL microwave reaction vial were introduced 3-amino-1-(3-(6-tert-butyl-1-oxophthalazin-2(1H)-yl)-2-(hydroxymethyl)phenyl)-1H-pyrazole-4-carbonitrile (25 mg, 0.060 mmol), 2-bromopyridine (11 mg, 0.072 mmol), Pd2(dba)3 (3.9 mg, 0.004 mmol), 2-(DICYCLOHEXYLPHOSPHINO)-3,6-DIMETHOXY-2′-4′-6′-TRI-I-PROPYL-1,1′-BIPHENYL (Brett-Phos) (4.5 mg, 0.008 mmol), cesium carbonate (29.5 mg, 0.091 mmol) and suspended in t-butanol (0.609 mL). The reaction vessel was inerted three times by alternating vacuum and an Ar purge, then stirred at room temperature for 5 minutes to give a heterogeneous mixture that turned color from purplish-red to reddish-orange. The reaction was heat to 100° C. (external), during which the color of the reaction mixture changed to orange after ˜2 minutes of heating. After 2 hr, the reaction was judged complete by TLC. The mixture was diluted with EtOAc, filtered through a pad of diatomaceous earth and bound to silica gel. The crude product was purified over silica gel using a 12 g RediSep silica gel cartridge eluting the column with a 30%-100% EtOAc/hexanes gradient to give 1-[3-(6-tert-Butyl-1-oxo-1H-phthalazin-2-yl)-2-hydroxymethyl-phenyl]-3-(pyridin-2-ylamino)-1H-pyrazole-4-carbonitrile (15 mg, 51%) as a white powder.

reactant | 3-amino-1-(3-(6-tert-butyl-1-oxophthalazin-2(1H)-yl)-2-(hydroxymethyl)phenyl)-1H-pyrazole-4-carbonitrile | 0.060 mmol, 25 mg | NC1=NN(C=C1C#N)C1=C(C(=CC=C1)N1C(C2=CC=C(C=C2C=N1)C(C)(C)C)=O)CO | C23H22N6O2
reactant | 2-bromopyridine | 0.072 mmol, 11 mg | BrC1=NC=CC=C1 | C5H4BrN
reactant | 2-(DICYCLOHEXYLPHOSPHINO)-3,6-DIMETHOXY-2′-4′-6′-TRI-I-PROPYL-1,1′-BIPHENYL | 0.008 mmol, 4.5 mg | CC(C)C1=CC(=C(C(=C1)C(C)C)C2=C(C=CC(=C2P(C3CCCCC3)C4CCCCC4)OC)OC)C(C)C | C35H53O2P
reactant | cesium carbonate | 0.091 mmol, 29.5 mg | C([O-])([O-])=O.[Cs+].[Cs+]
solvent | t-butanol | 0.609 mL | C(C)(C)(C)O | C4H10O
solvent | EtOAc | CCOC(=O)C | C4H8O2
catalyst | Pd2(dba)3 | 0.004 mmol, 3.9 mg | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
product | 1-[3-(6-tert-Butyl-1-oxo-1H-phthalazin-2-yl)-2-hydroxymethyl-phenyl]-3-(pyridin-2-ylamino)-1H-pyrazole-4-carbonitrile | 15 mg, 51% | C(C)(C)(C)C=1C=C2C=NN(C(C2=CC1)=O)C=1C(=C(C=CC1)N1N=C(C(=C1)C#N)NC1=NC=CC=C1)CO | C28H25N7O2
